US06939870B2
3-(2-hydroxyethyl)-1,2,3-benzotriazin-4(3H)one was prepared according to the general procedure outlined in example 1, step 1. Starting from 1,2,3-benzotriazin-4(3H)one (1.5 g, 10 mmol) and 2-bromoethanol (1.68 mL, 20 mmol), 1.20 g (63%); off white solid; m.p. 114° C., MS: 191.9 (M+H)+

reactant | 1,2,3-benzotriazin-4(3H)one | 10 mmol, 1.5 g | N1=NNC(C2=C1C=CC=C2)=O | C7H5N3O
reactant | 2-bromoethanol | 20 mmol, 1.68 mL | BrCCO | C2H5BrO
product | 3-(2-hydroxyethyl)-1,2,3-benzotriazin-4(3H)one | OCCN1N=NC2=C(C1=O)C=CC=C2 | C9H9N3O2
